US07354932B2
To a mixture of trans-1-hydroxy-4-(tert-butoxycarbonylamino)-2-cyclohexene (2.93 g, 13.8 mmol) in hexachloroacetone (70 mL) was added triphenylphosphine (7.51 g, 28.6 mmol) and the mixture was stirred at room temperature for 1 hour. The mixture was concentrated and the thus obtained oil was purified by column chromatography on silica gel (10:1 hexanes-ethyl acetate) and provided 1.98 g (62%) of cis-1-(tert-butoxycarbonylamino)-4-chloro-2-cyclohexene as a yellow solid.

reactant | trans-1-hydroxy-4-(tert-butoxycarbonylamino)-2-cyclohexene | 13.8 mmol, 2.93 g | O[C@@H]1C=C[C@H](CC1)NC(=O)OC(C)(C)C | C11H19NO3
reactant | triphenylphosphine | 28.6 mmol, 7.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexachloroacetone | 70 mL | ClC(C(=O)C(Cl)(Cl)Cl)(Cl)Cl | C3Cl6O
product | cis-1-(tert-butoxycarbonylamino)-4-chloro-2-cyclohexene | 1.98 g, 62% | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@H](CC1)Cl | C11H18ClNO2
